US08106064B2
5-Bromo-4-chloro-2,6-dimethoxy-pyrimidine:
In a 250 mL round bottom flask, 4-chloro-2,6-dimethoxy-pyrimidine (3.25 g, 18.65 mmol) and NaHCO3 (3.6 g, 42.9 mmol) was charged with MeOH and water (1:1 ratio, 160 mL). Bromine (1.44 mL, 27.97 mmol) was added to the mixture dropwise (in 1 hour). The reaction was stirred at room temperature overnight. The reaction mixture was concentrated down. Ethyl acetate was added, followed by washing with brine. The organic layer was concentrated down and purified (silica gel, 0-50% EtOAC/hexane) to give white solid (4.06 g, 86%). LC-MS shows 255.1 (M+1). 1H NMR (300 MHz, CDCl3): δ 4.07 (s, 3H), 3.98 (s, 3H); 13C NMR (300 MHz, CDCl3): δ 168.27; 162.79; 160.38; 97.08; 55.78; 55.70.

reactant | 4-chloro-2,6-dimethoxy-pyrimidine | 18.65 mmol, 3.25 g | ClC1=NC(=NC(=C1)OC)OC | C6H7ClN2O2
reactant | NaHCO3 | 42.9 mmol, 3.6 g | C(=O)(O)[O-].[Na+]
reactant | MeOH | CO | CH4O
reactant | Bromine | 27.97 mmol, 1.44 mL | BrBr | Br2
solvent | water | 160 mL | O | H2O
product | 5-Bromo-4-chloro-2,6-dimethoxy-pyrimidine | 4.06 g, 86% | BrC=1C(=NC(=NC1OC)OC)Cl | C6H6BrClN2O2
